US04782055
A solution of 2-amino-3-methoxymethoxypyridine (7.5 g) and 3-mesyloxy-5-hexyn-2-one (10.18 g), in ethanol (150 ml) was refluxed for 46.5 hours and then evaporated in vacuo. To the residue was added 20% sulfuric acid (75 ml) and the mixture was stirred for 5 hours at room temperature. The mixture was made alkaline with sodium bicarbonate and extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (30 g) with chloroform and then a mixture of chloroform and methanol (30:1 to 20:1) as eluents. The eluates were evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 8-hydroxy-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (1.93 g).

reactant | 2-amino-3-methoxymethoxypyridine | 7.5 g | NC1=NC=CC=C1OCOC | C7H10N2O2
reactant | 3-mesyloxy-5-hexyn-2-one | 10.18 g | S(=O)(=O)(C)OC(C(C)=O)CC#C | C7H10O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-hydroxy-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 1.93 g | OC=1C=2N(C=CC1)C(=C(N2)C)CC#C | C11H10N2O
